US09353108B2
C) Ethyl 2-(benzyloxy)-4′-fluoro-6-isopropoxybiphenyl-4-carboxylate
Palladium acetate (72 mg) was added to a mixture of ethyl 3-(benzyloxy)-4-iodo-5-isopropoxybenzoate (2.72 g), tripotassium phosphate (4.06 g), (4-fluorophenyl)boronic acid (1.78 g), tricyclohexylphosphine (20% toluene solution, 1.13 mL), toluene (20 mL), and water (10 mL), and the resultant mixture was stirred at 100° C. for 2 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature, then diluted with ethyl acetate, and washed with water and saturated saline in this order. The organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (2.03 g).

reactant | ethyl 3-(benzyloxy)-4-iodo-5-isopropoxybenzoate | 2.72 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1I)OC(C)C | C19H21IO4
reactant | tripotassium phosphate | 4.06 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (4-fluorophenyl)boronic acid | 1.78 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | tricyclohexylphosphine | 1.13 mL | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium acetate | 72 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 10 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(benzyloxy)-4′-fluoro-6-isopropoxybiphenyl-4-carboxylate | 2.03 g | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(=O)OCC)OC(C)C)C1=CC=C(C=C1)F | C25H25FO4
